US06894042B2
Methyl 3-methyl-1-benzofuran-5-carboxylate (365 mg, 1.9 mmol) is dissolved in MeOH (7 mL), diluted with H2O (3.5 mL) and treated with 3N NaOH (1.41 mL, 4.2 mmol). The mixture is diluted with MeOH (3.5 mL) to homogeneity, stirred at RT for 2.5 days then concentrated to dryness. The residue is dissolved in H2O (5 mL) and acidified to pH 2 with concentrated HCl. The resulting solid is filtered and dried in a vacuum oven at 40° C. for 18 h to afford 321 mg (95%) of 3-methyl-1-benzofuran-5-carboxylic acid as a white solid. HRMS (FAB) calcd for C10H8O3+H: 177.0552, found: 177.0553 (M+H)+.

reactant | Methyl 3-methyl-1-benzofuran-5-carboxylate | 1.9 mmol, 365 mg | CC1=COC2=C1C=C(C=C2)C(=O)OC | C11H10O3
reactant | NaOH | 4.2 mmol, 3N, 1.41 mL | [OH-].[Na+]
solvent | MeOH | 7 mL | CO | CH4O
solvent | H2O | 3.5 mL | O | H2O
solvent | MeOH | 3.5 mL | CO | CH4O
product | 3-methyl-1-benzofuran-5-carboxylic acid | 321 mg, 95% | CC1=COC2=C1C=C(C=C2)C(=O)O | C10H8O3
